US06737435B1
(iii) Methyl-4-fluoro-5-benzyloxyindole-2-carboxylate
A solution of methyl-2-azido-3-(2-fluoro-3-benzyloxyphenyl)propenoate (16.7 g) in xylene (600 ml) was added dropwise with stirring to refluxino xylene (2.4 L) over 1 hour and then stirred for a further 20 minutes. The reaction mixture was concentrated in vacuo and purified by flash column chromatography, using a gradient of 0-100% ethyl acetate/iso-hexane as eluent to give the product as a yellow solid (12.93 g) 1H NMR (DMSO-d6) δ 3.85(s, 3H), 5.15(s, 2H), 7.05-7.45(m, 8H), 12.06(s, 1H); M/z(+) 300.4 (MH+)

reactant | methyl-2-azido-3-(2-fluoro-3-benzyloxyphenyl)propenoate | 16.7 g | COC(C(=CC1=C(C(=CC=C1)OCC1=CC=CC=C1)F)N=[N+]=[N-])=O | C17H14FN3O3
solvent | xylene | 600 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 2.4 L | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl-4-fluoro-5-benzyloxyindole-2-carboxylate | 12.93 g | COC(=O)C=1NC2=CC=C(C(=C2C1)F)OCC1=CC=CC=C1 | C17H14FNO3
